US06562978B1
1-tert-Butoxycarbonyl-4-(2-thienylthio)piperidine
By a similar manner to Reference Example 35, 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol) was reacted with 2-mercaptothiophene (0.70 g, 6.0 mmol) to give the titled compound as pale yellow oily substance (987 mg, 66%).

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-mercaptothiophene | 6.0 mmol, 0.70 g | SC=1SC=CC1 | C4H4S2
product | 1-tert-Butoxycarbonyl-4-(2-thienylthio)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)SC=1SC=CC1 | C14H21NO2S2
